US07678818B2
Preparation of N-(4-tert-butyl-benzyl)-2,5-dichloro-N-[2-(3,4-dichloro-phenyl)-ethyl]-nicotinamide (S1-E1)
A solution of 2,5-dichloronicotinic acid (300 mg, 1.56 mmol), (4-tert-butyl-benzyl)-[2-(3,4-dichloro-phenyl)-ethyl]-amine (578 mg, 1.72 mmol), 4-methylmorpholine (474 mg, 7.81 mmol), and HBTU (889 mg, 2.34 mmol) in DMF (9 mL) was stirred at RT for 16 h, then partitioned between heptane, ethyl acetate and water. The organic layer was washed with brine, dried (MgSO4), and evaporated. Chromatography (SiO2, heptane-ethyl acetate gradient) afforded the title compound (761 mg, 95%). White foam, MS (ISP) 509.0 (M+H)+.

reactant | 2,5-dichloronicotinic acid | 1.56 mmol, 300 mg | ClC1=C(C(=O)O)C=C(C=N1)Cl | C6H3Cl2NO2
reactant | (4-tert-butyl-benzyl)-[2-(3,4-dichloro-phenyl)-ethyl]-amine | 1.72 mmol, 578 mg | C(C)(C)(C)C1=CC=C(CNCCC2=CC(=C(C=C2)Cl)Cl)C=C1 | C19H23Cl2N
reactant | 4-methylmorpholine | 7.81 mmol, 474 mg | CN1CCOCC1 | C5H11NO
reactant | HBTU | 2.34 mmol, 889 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
product | N-(4-tert-butyl-benzyl)-2,5-dichloro-N-[2-(3,4-dichloro-phenyl)-ethyl]-nicotinamide | 761 mg, 95% | C(C)(C)(C)C1=CC=C(CN(C(C2=C(N=CC(=C2)Cl)Cl)=O)CCC2=CC(=C(C=C2)Cl)Cl)C=C1 | C25H24Cl4N2O
